US07875606B2
10 ml of boron tribromide (2 M/liter of dichloromethane solution, 20.2 mmoles) was added, at −60° C., into a solution of 2.5 g (6.7 mmoles) of 5-chloromethyl-3-(1-ethyl-5-methoxy-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5-meth-yl-2-isoxazoline dissolved in 30 ml of dichloromethane. The mixture was stirred at room temperature overnight to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into ice water and extraction with chloroform was conducted. The resulting organic layer was washed with water and an aqueous sodium chloride solution in this order and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to reduced pressure distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography to obtain 1.6 g (yield: 66.7%) of 5-chloromethyl-3-(1-ethyl-5-hydroxy-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5-methyl-2-isoxazoline.

reactant | boron tribromide | 20.2 mmoles, 10 ml | B(Br)(Br)Br | BBr3
reactant | 5-chloromethyl-3-(1-ethyl-5-methoxy-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5-meth-yl-2-isoxazoline | 6.7 mmoles, 2.5 g | ClCC1(CC(=NO1)SCC=1C(=NN(C1OC)CC)C(F)(F)F)C | C13H17ClF3N3O2S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-chloromethyl-3-(1-ethyl-5-hydroxy-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5-methyl-2-isoxazoline | 1.6 g, yield: 66.7% | ClCC1(CC(=NO1)SCC=1C(=NN(C1O)CC)C(F)(F)F)C | C12H15ClF3N3O2S
